US05430153
3-Acetyl-4-sec-butylamino-8-isopropyl-2-quinolinone (543)
3-Acetyl-4-methylsulfoxy-8-isopropyl-2-quinolinone (2.91g, 0.01 mol) and sec-butylamine (0.73g, 0.01 mol) were used, but the reaction was carried out as the above process of example 37 to obtain the desired product (2.7g, yield: 90%).

reactant | 3-Acetyl-4-methylsulfoxy-8-isopropyl-2-quinolinone | 0.01 mol, 2.91g | C(C)(=O)C=1C(NC2=C(C=CC(=C2C1C)OS(=O)(=O)O)C(C)C)=O | C15H17NO6S
reactant | sec-butylamine | 0.01 mol, 0.73g | C(C)(CC)N | C4H11N
product | 3-Acetyl-4-sec-butylamino-8-isopropyl-2-quinolinone | 2.7g, yield: 90% | C(C)(=O)C=1C(NC2=C(C=CC=C2C1NC(C)CC)C(C)C)=O | C18H24N2O2
